Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
aspirin
 
Attending: ___.
 
Chief Complaint:
Requirement for ASA desensitization
 
Major Surgical or Invasive Procedure:
Diagnostic coronary angiogram (___)

 
History of Present Illness:
___ yo male with hypertension, hyperlipidemia, mild OSA and 
Sampter triad (nasal polyps, asthma, ASA allergy) who is 
presenting for ASA desensitization in anticipation for left 
heart catheterization on ___. 

For the last month, he has had an ongoing flare of his Sampter's 
triad, specifically nasal congestion and mild dyspnea without 
wheezing. He presented to ___ on ___ for elective nasal 
polypectomy. During procedure, anesthesiology noted new t-wave 
inversions on the monitor, so procedure was cancelled pending 
cardiac evaluation.   On ___ he had exercise stress echo and 
was noted to have 2mm ST depressions in lateral chest leads with 
1mm depression in inferior limb leads so was referred for cath. 
He presented to ___ on ___ in anticipation of 
catheterization and received baby aspirin. He developed throat 
tightness which improved with steroids. He was previously 
desensitized to aspirin in ___ at ___ and 
tolerated this well. 

On arrival to the ICU, he reports feeling well overall and 
denies any new complaints.  Previous to his Sampter's Triad 
exacerbation, he exercised on the treadmill 30 minutes per day 
and was able to walk 3 miles without chest pain or dyspnea.
 
Past Medical History:
HTN (no longer on meds)
HLD
OSA (mild) 
Sampter's triad ( nasal polyps/asthma/asa sensitivity) 
Nasal polypectomy x 3 
deviated septum
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.  Mother and Brother with DM.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS: 98.4 71 152/90 18 97%ra
GENERAL: Well developed, well nourished in NAD. Oriented x3. 
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.  
NECK: Supple. JVP not elevated sitting at 45 degree angle.
CARDIAC:  Regular rate and rhythm. Normal S1, S2. No murmurs, 
rubs, or gallops.  
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Obese, soft, non-tender, non-distended. No 
hepatomegaly. No splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

DISCHARGE PHYSICAL EXAM:
GENERAL: NAD. Oriented x3.
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
NECK: Supple. JVP not elevated 
CARDIAC:  Regular rate and rhythm. Normal S1, S2. No m/g/r 
LUNGS: unlabored, CTAB
ABDOMEN: Obese, soft, non-tender, non-distended. No 
hepatomegaly. No splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

 
Pertinent Results:
======================
ADMISSION LABS:
======================
___ 09:17PM BLOOD WBC-7.7 RBC-4.65 Hgb-13.7 Hct-40.7 MCV-88 
MCH-29.5 MCHC-33.7 RDW-13.7 RDWSD-43.4 Plt ___
___ 09:17PM BLOOD Neuts-54.4 ___ Monos-11.8 Eos-2.5 
Baso-0.5 Im ___ AbsNeut-4.17 AbsLymp-2.33 AbsMono-0.90* 
AbsEos-0.19 AbsBaso-0.04
___ 09:17PM BLOOD Glucose-109* UreaN-12 Creat-0.7 Na-137 
K-3.9 Cl-102 HCO3-22 AnGap-17
___ 09:17PM BLOOD Calcium-8.3* Phos-3.8 Mg-2.5 Cholest-282*
___ 09:17PM BLOOD Triglyc-262* HDL-53 CHOL/HD-5.3 
LDLcalc-177*
___ 09:17PM BLOOD %HbA1c-6.0 eAG-126

======================
IMAGING/STUDIES:
======================

Cardiac Cath ___:
Coronary Anatomy
Dominance: Right
* Left Main Coronary Artery
The LMCA is.
* Left Anterior Descending
The LAD has 30% mid.
* Circumflex
The Circumflex is nondominant.
The ___ Marginal has a 40% stenosis.
The distal Cx has a 40% stenosis.
* Right Coronary Artery
The RCA is nomal.
Impressions:
Nonobstructive CAD.
Recommendations
Med Rx.
No cardiac contraindication to surgery.

======================
DISCHARGE LABS:
======================

___ 05:00AM BLOOD Glucose-106* UreaN-10 Creat-0.8 Na-137 
K-4.1 Cl-103 HCO3-22 AnGap-16
___ 05:00AM BLOOD Calcium-8.1* Phos-4.3 Mg-2.___ with hx of Sampter's Triad, HTN, HLD, admitted for ASA 
desensitization for left heart cath, following positive pre-op 
stress test.

# ASA desensitization: tolerated well.

# Possible CAD: LHC performed ___. Non-obstructive CAD noted. 
Angiogram showed 30% mid-LAD disease, OM with 40% stenosis, and 
distal circumflex with 40% stenosis. Patient should follow-up 
with his cardiologist within one week of discharge. Medical 
management with aspirin (see below) and statin initiated.

TRANSITIONAL ISSUES:
====================
# Patient is s/p aspirin desensitization. Discussed with allergy 
attending: In order to maintain the desensitization, he should 
be on aspirin 325 BID. Given that his cardiac cath did not show 
significant CAD, continuing aspirin should be discussed with the 
patient's cardiologist and allergy specialist. The primary team 
think that a dose of 325mg BID is a very elevated dose that will 
hold more risk than benefit. If his dose is reduced, the patient 
may lose the desensitization effect.
# Given the high dose of aspirin the patient was started on 
daily omeprazole after discussion with allergy attending.
# Patient was found to have an LDL of 177 and was started on 
atorvastatin 40 daily.
# Patient was found to be persistently hypertensive to 150s/90s 
and should be started on an antihypertensive as tolerated as 
outpatient.`

# CODE: FULL CODE
# CONTACT/HCP: ___ (girlfriend) ___ ___ 
___ (daughter) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 1 PUFF IH Q6H:PRN wheeze 
2. Cialis (tadalafil) unknown  oral ONCE:PRN 

 
Discharge Medications:
1.  Aspirin 325 mg PO BID 
RX *aspirin 325 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 40 tablet(s) by mouth QPM Disp #*30 
Tablet Refills:*0 
3.  Cetirizine 10 mg PO DAILY 
RX *cetirizine 10 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*0 
5.  Cialis (tadalafil) 2.5 mg oral ONCE:PRN sexual activity  
6.  Albuterol Inhaler 1 PUFF IH Q6H:PRN wheeze  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses 
================= 
Non-obstructive coronary artery disease 
Sampter's triad s/p aspirin desensitization 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you during your stay at ___. You 
were admitted for work-up of abnormalities seen during a stress 
test. An aspirin desensitization was performed without issue due 
to your history of allergy. Cardiac catheterization showed 
coronary artery disease but no significant blockages. You should 
continue to take aspirin daily, start a new medication called 
atorvastatin, and follow up with your cardiologist for further 
treatment.

Wishing you well,
Your ___ Cardiology Team
 
Followup Instructions:
___